US08492378B2
2-methyl-5-[3-[4-[2-(methylthio)ethoxy]phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole
A suspension of 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenol (693 mg, 2.37 mmol), 1-chloro-2-(methylthio)ethane (1.18 mL, 11.9 mmol), sodium iodide (355 mg, 2.37 mmol) and potassium carbonate (1.64 g, 11.9 mmol) in N,N-dimethylformamide (10 mL) was stirred at 90° C. overnight. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=10/1-1/1) and recrystallized from hexane/ethyl acetate to give the title compound (452 mg, yield 52%) as colorless crystals.

reactant | 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenol | 2.37 mmol, 693 mg | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)O)C1 | C17H12N2O3
reactant | 1-chloro-2-(methylthio)ethane | 11.9 mmol, 1.18 mL | ClCCSC | C3H7ClS
reactant | sodium iodide | 2.37 mmol, 355 mg | [I-].[Na+]
reactant | potassium carbonate | 11.9 mmol, 1.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-5-[3-[4-[2-(methylthio)ethoxy]phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | 452 mg, yield 52% | CC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)OCCSC)C1 | C20H18N2O3S
